US07105707B2
The procedure was identical to Example 2, with the exception that 1-octyne (0.590 ml; 0.441 g; 4.00 mmol) was used as a substrate instead of phenylacetylene and 2-furonitrile (0.175 ml; 0.186 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 22 h at 65° C. showed the presence of 1.24 mmol (62% yield) of 2-(1-octynyl)furan and no remaining 2-furonitrile in the reaction mixture.

reactant | 1-octyne | 4.00 mmol, 0.590 ml, 0.441 g | C#CCCCCCC | C8H14
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 2-furonitrile | 2.00 mmol, 0.175 ml, 0.186 g | O1C(=CC=C1)C#N | C5H3NO
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 2-(1-octynyl)furan | 1.24 mmol, 62% yield | C(#CCCCCCC)C=1OC=CC1 | C12H16O
